US07595323B2
4-Nitrophenyl-guanidine nitrate (20 g, 0.08 mol) and 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one (11.75 g, 0.06 mol) were reacted according to the same procedure as Step 1.3 of Preparation 1 to give N-(4-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine (9.38 g).

reactant | 4-Nitrophenyl-guanidine nitrate | 0.08 mol, 20 g | [N+](=O)(O)[O-].[N+](=O)([O-])C1=CC=C(C=C1)NC(=N)N
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.06 mol, 11.75 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
product | N-(4-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 9.38 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H11N5O2
